US04713393
6-(3-(2-hydroxymethylphenyl)-trans-prop-2-enyl)-5-hydroxy-2,3-dihydrobenzofuran (2.82 g; 0.01 moles) was dissolved in acetic acid (35 ml) and ethyl alcohol (10 ml) and hydrogenated at 40 psi at room temperature using PtO2 (0.30 g) as a catalyst. The reduction was complete in approximately 3 minutes with a slight exotherm. The catalyst was removed via suction filtration through a bed of celite. The bed was washed with ethyl alcohol (2×10 ml) and the filtrate was relieved of solvent in vacuo to afford a crude gum. The gum was dissolved in ethyl ether (50 ml) and was washed sequentially with brine (2×50 ml) and saturated NaHCO3 solution (2×50 m). The organic layer was dried over MgSO4, filtered, and the filtrate evaported in vacuo to yield a crude solid. Recrystallization from ethyl acetate/n-hexane produced 6-(3-(2-hydroxymethyl-phenyl)-propyl)-5-hydroxy-2,3-dihydrobenzofuran as white needles (1.4 g, 49%, m.p. 110°-111.5° C.).

reactant | 6-(3-(2-hydroxymethylphenyl)-trans-prop-2-enyl)-5-hydroxy-2,3-dihydrobenzofuran | 0.01 moles, 2.82 g | OCC1=C(C=CC=C1)/C=C/CC1=CC2=C(CCO2)C=C1O | C18H18O3
reactant | ethyl alcohol | 10 ml | C(C)O | C2H6O
solvent | acetic acid | 35 ml | C(C)(=O)O | C2H4O2
catalyst | PtO2 | 0.30 g | O=[Pt]=O
solvent | ethyl ether | 50 ml | C(C)OCC | C4H10O
product | 6-(3-(2-hydroxymethyl-phenyl)-propyl)-5-hydroxy-2,3-dihydrobenzofuran | 1.4 g, 49% | OCC1=C(C=CC=C1)CCCC1=CC2=C(CCO2)C=C1O | C18H20O3
